US06809199B2
Step B: 7-[(1-tert-Butylpiperidin-4-yl)oxy]-5-(2-chlorophenyl)-1-(2,6-dichlorophenyl)-1,6-naphthyridin-2(1H)-one
The title compound was prepared from 40 mg of 7-bromo-5-(2-chlorophenyl)-1-(2,6-dichlorophenyl)-1,6-naphthyridin-2(1H)-one (COMPOUND HHH2), 55 mg of 1-tert-butylpiperidin-4-ol, and 8 mg of NaH by a procedure analogous to that described in COMPOUND HHH6. Mass spectrum (ESI) 556 (M+1). 1H NMR (500 MHz, CDCl3; doubling of peaks due to restricted rotation) δ 1.44 and 1.42 (2 s, 9H); 2.20-2.53 (m, 4H); 2.77 (m, 0.6H); 3.05 (br s, 1.6H); 3.50 (m, 1.5H); 3.70 (m, 0.8H); 4.60-5.40 (m, 2.9H); 5.39 (br s, 0.8H); 5.75 and 5.80 (2 s, 1H); 6.54 and 6.56 (2 d, J=8.5 Hz and J=10 Hz, 1H); 7.36-7.66 (m, 8H).

reactant | 7-bromo-5-(2-chlorophenyl)-1-(2,6-dichlorophenyl)-1,6-naphthyridin-2(1H)-one | 40 mg | BrC1=NC(=C2C=CC(N(C2=C1)C1=C(C=CC=C1Cl)Cl)=O)C1=C(C=CC=C1)Cl | C20H10BrCl3N2O
reactant | 1-tert-butylpiperidin-4-ol | 55 mg | C(C)(C)(C)N1CCC(CC1)O | C9H19NO
reactant | NaH | 8 mg | [H-].[Na+]
product | 7-[(1-tert-Butylpiperidin-4-yl)oxy]-5-(2-chlorophenyl)-1-(2,6-dichlorophenyl)-1,6-naphthyridin-2(1H)-one | C(C)(C)(C)N1CCC(CC1)OC1=NC(=C2C=CC(N(C2=C1)C1=C(C=CC=C1Cl)Cl)=O)C1=C(C=CC=C1)Cl | C29H28Cl3N3O2
